Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Therapeutic paracentesis ___

 
History of Present Illness:
Ms ___ is a ___ with HCV/EtOH cirrhosis (c/b ascites,
esophageal varices, and hepatic encephalopathy), polysubstance
use disorder, HLD, COPD, PVD, GERD s/p lap fundoplication and
hiatal hernia repair who p/w abd distention and discomfort in
setting of recurrent ascites and NGT clog. 

Pt had recent admission to ET ___ after presenting with
fall likely due to overmedication or HE iso not taking 
sufficient
lactulose, course c/b hyponatremia and anemia. During
hospitalization she required q1-2wk tx paras with the last on
___ with 1.8L removed. She was set up with q1-2wk paras, the
next being ___. 

Pt states that in the last few days she has had progressively
worsening abd distention and discomfort, that is typical of when
she needs a tx para. She also states that in the last day her NG
tube has clogged. This prompted her presentation to the ED.

In the ED initial vitals: 98.1, 77 137/67 20 98% RA  

- Exam notable for: abd distention 

- Labs notable for:
CBC: WBC 4.8, Hgb 9.6 (8.3 on ___, plt 84
Chem7: BUN 17, Cr 0.7, bicarb 21
LFTs: ALT 23, AST 41, AP 162 (119 on ___, TB 1.4 (0.8 on ___
Coags: INR 1.6 (1.4 on ___
UA: Tr Prot otherwise WNL

- Imaging notable for: None

- Consults:
LIVER: Outpt wants admit for multiple purposes including tx 
para,
coordinating pall care.

- Patient was given: PO/NG Morphine Sulfate (Oral Solution) 10 
mg

On arrival pt endorses history above. She denies f/c, confusion,
CP, dyspnea, n/v, diarrhea, melena, hematochezia.

 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol use disorder
Depression
Cocaine use disorder
Tobacco use disorder
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION EXAM:
==============
VS:98.6 PO 142 / 64 L Sitting 81 18 96 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: Bibasilar crackles
ABDOMEN: +caput medusa, significantly distended abdomen, tender
to palpation diffusely, no rebound/guarding  
EXTREMITIES: no cyanosis, clubbing, or edema    
NEURO: A&Ox3, moving all 4 extremities with purpose, CN ___
intact
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM:
==============
VS: 
24 HR Data (last updated ___ @ 406)
    Temp: 97.9 (Tm 98.5), BP: 129/69 (118-134/58-69), HR: 59
(59-96), RR: 18 (___), O2 sat: 91% (91-98), O2 delivery: Ra,
Wt: 118.4 lb/53.71 kg     
GENERAL: cachectic female lying in bed, appears uncomfortable
HEENT: icteric sclera, MMM, EOMI  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB. no w/r/r 
ABDOMEN: +caput medusa, significantly distended abdomen, tender
to palpation diffusely, no rebound/guarding, reducible ventral
hernia present 
EXTREMITIES: Palmar erythema, no cyanosis, clubbing, or edema    

NEURO: A&Ox3 (although slow to answer), moving all 4 extremities
with purpose, CN ___ grossly intact, tremor in all four
extremities, so difficult to assess for asterixis 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes, palmar erythema as above
 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:04PM URINE  HOURS-RANDOM
___ 07:04PM URINE  UHOLD-HOLD
___ 07:04PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:04PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:04PM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-1
___:04PM URINE  MUCOUS-RARE*
___ 04:50PM   GLUCOSE-99 UREA N-17 CREAT-0.7 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-21* ANION GAP-11
___ 04:50PM   estGFR-Using this
___ 04:50PM   ALT(SGPT)-23 AST(SGOT)-41* ALK PHOS-162* TOT 
BILI-1.4
___ 04:50PM   LIPASE-47
___ 04:50PM   ALBUMIN-3.5 CALCIUM-8.3* PHOSPHATE-3.2 
MAGNESIUM-2.2
___ 04:50PM   WBC-4.8 RBC-3.34* HGB-9.6* HCT-31.1* MCV-93 
MCH-28.7 MCHC-30.9* RDW-17.4* RDWSD-59.6*
___ 04:50PM   NEUTS-80.9* LYMPHS-9.2* MONOS-8.0 EOS-1.5 
BASOS-0.2 IM ___ AbsNeut-3.86 AbsLymp-0.44* AbsMono-0.38 
AbsEos-0.07 AbsBaso-0.01
___ 04:50PM   PLT COUNT-84*
___ 04:50PM   ___ PTT-34.8 ___

IMAGING:
=======
PARACENTESIS U/S ___:

1. Technically successful ultrasound guided therapeutic 
paracentesis.
2. 5.3 L of fluid were removed.

DISCHARGE LABS:
===============
___ 05:34AM BLOOD WBC-3.7* RBC-2.66* Hgb-7.5* Hct-24.7* 
MCV-93 MCH-28.2 MCHC-30.4* RDW-17.5* RDWSD-59.1* Plt Ct-59*
___ 05:34AM BLOOD ___ PTT-41.2* ___
___ 05:34AM BLOOD Glucose-115* UreaN-9 Creat-0.8 Na-138 
K-3.7 Cl-109* HCO3-19* AnGap-10
___ 05:34AM BLOOD ALT-21 AST-35 AlkPhos-153* TotBili-1.0
___ 05:34AM BLOOD Calcium-8.3* Phos-3.1 Mg-2.___ woman with HCV/EtOH cirrhosis (c/b ascites, 
esophageal varices, and hepatic encephalopathy), polysubstance 
use disorder, HLD, COPD, PVD, GERD s/p lap fundoplication and 
hiatal hernia repair who presented with abdominal distention and 
discomfort consistent with her known recurrent ascites as well 
as dislodgement of NG tube. Her course was complicated by 
hematochezia and urinary retention. 

ACUTE ISSUES:
=============
# Decompensated HCV/EtOH Cirrhosis
# Malnutrition 
Child's Class B, MELD 14 on admission. Previously decompensated 
by recurrent ascites, esophageal varices, and HE. No history of 
SBP. Not transplant candidate. Last EGD ___ with grade II 
varices in distal esophagus. Hgb 9.6 on admission, 7.5 at time 
of discharge. Patient underwent therapeutic paracentesis this 
admission with > 5 L removed. No fluid studies were sent. She 
had an additional paracentesis on ___ for ~2 L. Patient was 
continued on home medications including lactulose and rifaximin 
in house. NGT was not replaced this admission due to patient 
preference. Nutrition was consulted and recommended a somewhat 
more liberalized diet to encourage eating. 

# Hematochezia 
She developed maroon colored stools on ___ concerning for a 
lower GI bleed. Her hemoglobin was overall stable throughout 
this from 7.3-7.8 and she received no blood transfusions. She 
was prepped for a colonoscopy on ___ that unfortunately had to 
be cancelled due to her not being able to wake up and 
communicate with the operating provider. She was then maintained 
on clears and had the colonoscopy performed on ___. The 
colonoscopy revealed only rectal varices that were likely 
responsible for the bleeding. There was no need for 
intervention. Hgb was 7.5 on discharge. 

# PAD
She has worsening leg pain with walking concerning for 
claudication. Her pulses are intact on exam. ABI ___ shows 
severe b/l disease with e/o critical limb ischemia on the right, 
worse compared to prior. Vascular surgery was consulted and 
arranged for outpatient follow up. No need for surgical 
intervention this admission. 

# Chronic pain
Patient seen by palliative care in the past for help managing 
chronic pain. Palliative care was re-consulted this admission 
and recommended starting methadone. She developed urinary 
retention and this was discontinued. She was discharged on 
morphine 10 mg PO Q4H:prn with a max of 40/day and pregabalin. 

# Urinary retention
She developed urinary retention requiring intermittent straight 
catheterizations this admission. This may have been in the 
setting of a new pain medication regimen, but per the patient 
this has happened before and no cause was identified. Methadone 
was discontinued to determine if this helped, but she continued 
to require intermittent catheterization. She will follow-up with 
urology as an outpatient. 

CHRONIC ISSUES:
==============
# HCV genotype 1a
HCV VL undectable last admission. Continued 
sofosbuvir-velpatasvir

# Continued home COPD, GERD meds. 

# Depression, continued SSRI. 

# Polysubstance use disorder, continued folate, multivitamin, 
and folate.

TRANSITIONAL ISSUES:
==================
[ ] The patient had a clogged NG tube removed this admission. 
This was placed for malnutrition but she did not want it 
replaced. Continue to discuss the benefits/risks of NG tube 
feeding for nutritional support. 
[ ] The patient had urinary retention this admission requiring 
intermittent straight catheterizations. She will require 
intermittent catheterization until this resolved by ___. She 
will have an appointment with urology as an outpatient. 
[ ] The patient was seen by palliative care in the hospital and 
will continue to see them as an outpatient for pain control and 
to discuss goals of care. 
[ ] She had questionable diplopia this admission (not 
consistently reported and normal eye/neuro exam). This may have 
been related to not using her glasses and dry eyes. She was also 
given eye drops. 
[ ] Please check her Meld labs (electrolytes, CBC, INR, LFTs) at 
her next appointment. 

# CODE: Full 
# CONTACT: ___ (fiance) p: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rifaximin 550 mg PO BID 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing 
4. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
5. Lactulose 30 mL PO TID 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Aspirin 81 mg PO DAILY 
8. Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
11. Zinc Sulfate 220 mg PO DAILY 
12. Thiamine 100 mg PO DAILY 
13. Pregabalin 150 mg PO BID 
14. FoLIC Acid 1 mg PO DAILY 
15. Lidocaine 5% Patch 2 PTCH TD QAM 
16. Multivitamins W/minerals 1 TAB PO DAILY 
17. Fluticasone Propionate NASAL 1 SPRY NU BID 
18. Morphine Sulfate ___ 10 mg PO Q4H:PRN Pain - Moderate 
19. Methadone 2.5 mg PO DAILY 
20. Escitalopram Oxalate 20 mg PO DAILY 
21. Glargine 8 Units Breakfast
NPH 22 Units Dinner
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Moderate 
RX *morphine 15 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
2.  Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing  
3.  Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing  
4.  Aspirin 81 mg PO DAILY  
5.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU BID  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Glargine 8 Units Breakfast
NPH 22 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
11.  Lactulose 30 mL PO TID  
12.  Lidocaine 5% Patch 2 PTCH TD QAM  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  Pregabalin 150 mg PO BID  
17.  Rifaximin 550 mg PO BID  
18.  Thiamine 100 mg PO DAILY  
19.  Tiotropium Bromide 1 CAP IH DAILY  
20.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
=======
HCV/EtOH Cirrhosis
Peripheral artery disease

SECONDARY:
==========
Chronic pain
Hepatitis C
COPD
GERD
Polysubstance use disorder
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of your at ___.

You were admitted to the hospital because of worsening abdominal 
pain and because your NG tube fell out.

While in the hospital, you had a paracentesis to remove extra 
fluid from your abdomen. You also met with our palliative care 
team to help address ongoing pain issues. You had bloody stools 
and had a colonoscopy that showed some varices or enlarged veins 
in your rectum that probably caused this. There was no need for 
an intervention. 

You should continue to take all of your medications as 
prescribed after leaving the hospital. Please also follow up 
with your doctors as ___. 

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___